US07728029B2
To a mixture of t-butyl nitrite (7.2 mL, 60.5 mmol), cuprous chloride (4.8 g, 48.5 mmol), and anhydrous acetonitrile (120 mL) was added 5-amino-1-tert-butyl-1H-pyrazole-4-carboxylic acid ethyl ester (8.4 g, 39.8 mmol) in portions over 30 minutes at 0° C. The reaction mixture was stirred at room temperature for 1 h, then at 65° C. for 1 h. The mixture was then poured into 6N HCl (120 mL) and extracted with dichloromethane. The aqueous phase was extracted three times with dichloromethane. After the combined organic phases were concentrated in vacuo, the crude residue was purified by flash chromatography eluting with a gradient of 0-20% ethyl acetate/hexanes, then 20% ethyl acetate/hexanes to give 1-tert-butyl-5-chloro-1H-pyrazole-4-carboxylic acid ethyl ester (5.5 g, 39%).

reactant | t-butyl nitrite | 60.5 mmol, 7.2 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-1-tert-butyl-1H-pyrazole-4-carboxylic acid ethyl ester | 39.8 mmol, 8.4 g | C(C)OC(=O)C=1C=NN(C1N)C(C)(C)C | C10H17N3O2
reactant | HCl | 6N, 120 mL | Cl | ClH
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | 1-tert-butyl-5-chloro-1H-pyrazole-4-carboxylic acid ethyl ester | 5.5 g, 39% | C(C)OC(=O)C=1C=NN(C1Cl)C(C)(C)C | C10H15ClN2O2
